US04456772
37 g (0.2 mol) of 5-chloro-2-nitrobenzaldehyde and 23.2 g (0.4 mol) of potassium fluoride in 300 ml of dimethylacetamide are stirred for 3 hours at 150° C. The solvent is then stripped off in vacuo and the residue is stirred with 200 ml of water. The aldehyde is extracted with methylene chloride, and the organic phase is separated off, dried and evaporated down. 24 g of 5-fluoro-2-nitrobenzaldehyde with a content of 86% are obtained.

reactant | 5-chloro-2-nitrobenzaldehyde | 0.2 mol, 37 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | potassium fluoride | 0.4 mol, 23.2 g | [F-].[K+]
reactant | water | 200 ml | O | H2O
solvent | dimethylacetamide | 300 ml | CC(=O)N(C)C | C4H9NO
product | 5-fluoro-2-nitrobenzaldehyde | 24 g, Yield: 60.7% | FC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4FNO3
